US04797495
To a RB flask equipped with magnetic stirring bar, reflux condenser and N2 inlet line with bubbler was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (Aldrich, 38.6 g, 0.119 mol), H2O (100 mL) and CHCl3 (1500 mL). After refluxing the mixture for 15 min, 8-methylbenzo[b]naphtho-[2,3-d]thiophene (Cambridge Chemicals, Inc., 21.0 g, 89.6 mmol) was added to the flask. After refluxing the mixture for 5 h an additional portion of DDQ (19.3 g, 85 mmol) was added. The mixture was then refluxed overnight, cooled and the deep red solution filtered. The solvent was then removed by rotary evaporation and the residual H2O removed by azeotropic distillation with several portions of PhCH3. The material was then dissolved in PhCH3 (500 mL) and applied to a 40×10 cm column of SiO2 and eluted with additional PhCH3 as the solvent. The appropriate fractions were combined and the solvent removed to give 7.12 g of crude material. This was crystallized (PhCH3), filtered and dried to give 5.35 g (22.7% yield) of benzo[b]naphtho[2,3-d]thiophene-8-carbaldehyde, mp 182°-185°, (C, H, S).

reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.119 mol, 38.6 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | H2O | 100 mL | O | H2O
reactant | 8-methylbenzo[b]naphtho-[2,3-d]thiophene | 89.6 mmol, 21.0 g | CC1=CC2=CC3=C(C4=C(S3)C=CC=C4)C=C2C=C1 | C17H12S
reactant | DDQ | 85 mmol, 19.3 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | CHCl3 | 1500 mL | C(Cl)(Cl)Cl | CHCl3
product | benzo[b]naphtho[2,3-d]thiophene-8-carbaldehyde | 5.35 g, 22.7% yield | C1=CC=CC=2SC3=C(C21)C=C2C=CC(=CC2=C3)C=O | C17H10OS
